US06653308B2
A solution of sodium hydroxide (47.9 g, 1.2 mole) in 78 mL water was added 1-chloro-3-diethylamino-propan-2-ol. The resultant was stirred at 20-25° C. for 1 hour, diluted with 178 mL of water and extracted with ether twice. The combined ether solution was dried with solid potassium hydroxide and evaporated to give 135 g of crude product which was purified by fraction distillation to give pure glycidyldiethylamine (98 g, 76%) as an oil.

reactant | sodium hydroxide | 1.2 mole, 47.9 g | [OH-].[Na+]
reactant | 1-chloro-3-diethylamino-propan-2-ol | ClCC(CN(CC)CC)O | C7H16ClNO
solvent | water | 78 mL | O | H2O
solvent | water | 178 mL | O | H2O
product | glycidyldiethylamine | 98 g, 76% | C(C1CO1)N(CC)CC | C7H15NO
